US06872720B2
Toluene-4-sulfonic acid 5acetyl-4-(2-fluorophenyl)-1H-pyrazol-3-yl ester (1.0 g, 2.7 mmol; prepared as described in Example 1, steps a to c) was stirred with benzhydrazide (400 mg, 2.9 mmol) in xylene (30 ml) at reflux overnight. The mixture was allowed to cool to room temperature. A solid crystallised out of solution This was separated by filtration, and was recrystallised from ethyl acetate, yielding toluene-4-sulfonic acid 3-(2-fluorophenyl)-4-methyl-7-phenylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester as a white solid (694 mg). 1H NMR (400 MHz, CDCl3) δ 2.47 (3H, s), 2.52 (3H, s), 7.19 (1H, t, J=8.9 Hz), 7.28 (3H, m), 7.41-7.52 (4H, m), 7.61 (1H, m), 7.79 (2H, d, J=8.3 Hz), 8.25 (2H, d, J=7.5 Hz); MS (ES+) m/e 475 [MH]+.

reactant | Toluene-4-sulfonic acid 5acetyl-4-(2-fluorophenyl)-1H-pyrazol-3-yl ester | C(C)(=O)C1=C(C(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=CC=C1)F | C18H15FN2O4S
reactant | benzhydrazide | 2.9 mmol, 400 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | toluene-4-sulfonic acid 3-(2-fluorophenyl)-4-methyl-7-phenylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | 694 mg | FC1=C(C=CC=C1)C=1C(=NN2C(=NN=C(C21)C)C2=CC=CC=C2)OS(=O)(=O)C2=CC=C(C=C2)C | C25H19FN4O3S
